US08242280B2
A solution of 3-bromobenzyl chloride (20 g, 97 mmol) and triphenylphosphine (25.5 g, 97 mmol) in o-xylene (200 mL) was heated to 140° C. with stirring for 48 hours. The white precipitate was filtered, washed with hexane, and air dried to afford (3-bromo-benzyl)-triphenyl-phosphonium chloride (36.8 g, 95%) as a white crystalline solid. The crude was used in next step without farther purification. MS: m/z 431 (M+H+).

reactant | 3-bromobenzyl chloride | 97 mmol, 20 g | BrC=1C=C(CCl)C=CC1 | C7H6BrCl
reactant | triphenylphosphine | 97 mmol, 25.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | o-xylene | 200 mL | CC=1C=CC=CC1C | C8H10
product | (3-bromo-benzyl)-triphenyl-phosphonium chloride | 36.8 g, 95% | [Cl-].BrC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | InChI=1S/C25H21BrP.ClH/c26-22-12-10-11-21(19-22)20-27(23-13-4-1-5-14-23,24-15-6-2-7-16-24)25-17-8-3-9-18-25;/h1-19H,20H2;1H/q+1;/p-1
